US06806367B2
Preparation of 2-chloro-3-[4-chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-6-trifluoromethyl-4(3H)-pyrimidinone (Compound III-2)
A mixture of 3-[4-chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione(2.01 g, 0.005 mol), phosphorus oxychloride (3.83 g, 0.025 mol), triethylamine (2.02 g, 0.02 mol and toluene (7 ml) was heated under reflux for 2 hours. The reaction mixture was poured into brine, and extracted with ethyl acetate. The organic phase was separated, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by column chromatography on silica gel(40% ethyl acetate/hexane) to give compound III-2 (1.05 g, yield 49.9%) as a white solid, m.p.132-134.5° C.

reactant | 3-[4-chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.005 mol, 2.01 g | ClC1=CC(=C(C=C1OC1=NC=CC=N1)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C15H7ClF4N4O3
reactant | phosphorus oxychloride | 0.025 mol, 3.83 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | 2-chloro-3-[4-chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-6-trifluoromethyl-4(3H)-pyrimidinone | yield 49.9% | ClC1=NC(=CC(N1C1=C(C=C(C(=C1)OC1=NC=CC=N1)Cl)F)=O)C(F)(F)F | C15H6Cl2F4N4O2
